US08895588B2
ethyl 1-(2-fluoropyridin-3-yl)-5-[(4-methoxyphenyl)sulfanyl]-1H-pyrazole-3-carboxylate
A solution of ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate (351 mg), 4-methoxybenzenethiol (141 mg) and sodium carbonate (146 mg) in toluene (5 ml) was sufficiently deaerated, tris(dibenzylideneacetone)dipalladium(0) (17 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (21 mg) were added, and the mixture was further deaerated. Under an argon atmosphere at 110° C., the mixture was stirred for 13 hr, and allowed to cool to room temperature. Ethyl acetate was added, and the mixture was filtered through a silica gel pad. The organic layer of the filtrate was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a crude yellow oil.

reactant | ethyl 1-(2-fluoropyridin-3-yl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | 351 mg | FC1=NC=CC=C1N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C12H9F4N3O5S
reactant | 4-methoxybenzenethiol | 141 mg | COC1=CC=C(C=C1)S | C7H8OS
reactant | sodium carbonate | 146 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(2-fluoropyridin-3-yl)-5-[(4-methoxyphenyl)sulfanyl]-1H-pyrazole-3-carboxylate | FC1=NC=CC=C1N1N=C(C=C1SC1=CC=C(C=C1)OC)C(=O)OCC | C18H16FN3O3S
